US07173135B2
7-[3-(4-acetylpiperazin-1-yl)propoxy]-3-cyano-6-methoxy-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline dihydrochloride salt
Using an analogous procedure to that described in Example 10, 7-(3-chloropropoxy)-3-cyano-6-methoxy-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline was reacted with 1-acetylpiperazine to give the title compound in 58% yield; NMR Spectrum: (DMSOd6 and CF3CO2D at 100° C.) 2.04 (s, 3H), 2.3–2.37 (m, 2H), 3.27–3.37 (m, 9H), 3.74–3.84 (m, 4H), 3.96 (s, 3H), 4.3–4.36 (m, 4H), 6.04 (s, 2H), 6.89 (d, 1H), 6.96 (d, 1H), 7.51 (s, 1H), 7.96 (s, 1H), 8.66 (s, 1H); Mass Spectrum: M+H+ 572.

reactant | 7-(3-chloropropoxy)-3-cyano-6-methoxy-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline | ClCCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C2C(=C(C=C1)C#CCOC)OCO2)OC | C25H22ClN3O5
reactant | 1-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 7-[3-(4-acetylpiperazin-1-yl)propoxy]-3-cyano-6-methoxy-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline dihydrochloride salt | 58% yield | Cl.Cl.C(C)(=O)N1CCN(CC1)CCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C2C(=C(C=C1)C#CCOC)OCO2)OC | InChI=1S/C31H33N5O6.2ClH/c1-21(37)36-12-10-35(11-13-36)9-5-15-40-28-17-26-24(16-27(28)39-3)29(23(18-32)19-33-26)34-25-8-7-22(6-4-14-38-2)30-31(25)42-20-41-30;;/h7-8,16-17,19H,5,9-15,20H2,1-3H3,(H,33,34);2*1H
